US07820670B2
A solution of 1-BOC-3-methyl-5-bromo-indazole (0.24 g, 0.76 mmol), in DMF (10 mL) at room temperature, under nitrogen and treated with potassium acetate (0.40 g, 4 mmol), bis(pinacolato)diboron (0.38 g, 1.5 mmol) and Pd(dppf)Cl2.CH2Cl2 (80 mg, 0.1 mmol). This suspension was degassed with four cycles of vacuum and nitrogen. The suspension was heated at 80° C. for two hours and then cooled to room temperature. The suspension was treated with 3-(3-bromo-imidazo[1,2-b]pyridazine-6-yl-amino)-piperidine-1-carboxylic acid tert-butyl ester (0.31 g, 0.76 mmol) and potassium carbonate (0.40 g) and water (2 mL), degassed (vacuum and then nitrogen×4) and heated at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, quenched with saturated aqueous sodium bicarbonate (100 mL) and extracted with ethyl acetate (3×50 mL). The organic layers were combined, dried with anhydrous magnesium sulfate, filtered and evaporated. After chromatography with silica gel and a gradient of hexane/ethyl acetate a mixture of mono and di-BOC protected material was obtained as shown by MS m/z 448 and 548. This mixture was treated with aqueous HCl (20%, double distilled, 5 mL) at room temperature overnight. Then the reaction mixture was evaporated to give [3-(3-methyl-1H-indazol-5-yl)-imidazo[1,2-b]pyridazine-6-yl]-piperidin-3-yl-amine trihydrochloride as an yellow solid (0.12 g, 34%); this material was purified by reversed phase chromatography (20.9 mg): mp decomposed above 250° C.; MS [M+H]+ m/z 348. Anal. (C19H21N7.3HCl.1.08H2O), C, H, N.

reactant | 1-BOC-3-methyl-5-bromo-indazole | 0.76 mmol, 0.24 g | C(=O)(OC(C)(C)C)N1N=C(C2=CC(=CC=C12)Br)C | C13H15BrN2O2
reactant | potassium acetate | 4 mmol, 0.40 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.5 mmol, 0.38 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.1 mmol, 80 mg | C(Cl)Cl | CH2Cl2
reactant | 3-(3-bromo-imidazo[1,2-b]pyridazine-6-yl-amino)-piperidine-1-carboxylic acid tert-butyl ester | 0.76 mmol, 0.31 g | C(C)(C)(C)OC(=O)N1CC(CCC1)NC=1C=CC=2N(N1)C(=CN2)Br | C16H22BrN5O2
reactant | potassium carbonate | 0.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 5 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
product | [3-(3-methyl-1H-indazol-5-yl)-imidazo[1,2-b]pyridazine-6-yl]-piperidin-3-yl-amine trihydrochloride | 0.12 g, 34% | Cl.Cl.Cl.CC1=NNC2=CC=C(C=C12)C1=CN=C2N1N=C(C=C2)NC2CNCCC2 | InChI=1S/C19H21N7.3ClH/c1-12-15-9-13(4-5-16(15)24-23-12)17-11-21-19-7-6-18(25-26(17)19)22-14-3-2-8-20-10-14;;;/h4-7,9,11,14,20H,2-3,8,10H2,1H3,(H,22,25)(H,23,24);3*1H
